US04543214
A 1 liter double mantle flask equipped with propeller or anchor stirrer, bromine inlet with metering pump, and reflux condenser attached to a waste gas adsorption unit, is charged with 1265 parts by weight of 1-nitroanthraquinone and 60 parts by weight of nitrobenzene. The mixture is heated to 240° C. and, at this temperature and with efficient stirring, elementary bromine is pumped in by means of the metering pump. The rate of addition is so chosen that gentle bromine reflux is always maintained in the reflux condenser. After about 200 to 220 ml of bromine have been added over 10 hours, no more bromine is taken up by the reaction mixture and the presence of 1-nitroanthraquinone can no longer be detected in a thin-layer chromatogram. The mixture is then cooled to 200° C. and the melt is discharged through the bottom outlet into 2 liters of vigorously stirred water. The resultant suspension is then refluxed and nitrobenzene is separated in a water separator. After about 1 hour the suspension is cooled to about 80° C., filtered, and the filter cake is washed with hot water and dried in vacuo at 120° C., affording 1400 parts by weight of 1-bromoanthraquinone in 96-97% purity. The yield, based on 1-nitroanthraquinone, is 97.5 %.

reactant | bromine | BrBr | Br2
reactant | 1-nitroanthraquinone | [N+](=O)([O-])C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7NO4
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | bromine | about 200 to 220 ml | BrBr | Br2
solvent | water | O | H2O
product | 1-bromoanthraquinone | BrC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7BrO2
